US07547698B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID 4-FLUOROBENZYLAMIDE
Following the procedure as described in Example 1, making variations only as required to 4-fluorobenzylamine in place of isoamylamine to react with 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid in 30% yield (0.035 g). m.p. 205-207° C. 1H NMR (300 MHz, CDCl3) δ 8.18 (s, 1H), 7.77-7.5 (m, 5H), 7.38-7.27 (m, 3H), 7.03-6.94 (m, 2H), 6.9 (d, J=9.6 Hz, 1H), 4.58 (d, J=6 Hz, 2H), 4.06-3.94 (m, 1H), 3.93-3.81 (m, 1H), 3.69-3.54 (m, 2H), 3.52-3.42 (m, 2H), 3.36-3.27 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 167.6, 163.7, 162.3, 160.5, 154.8, 137.8, 135.7, 134.2, 132.4, 129.6, 129.5, 126.9, 126.8, 126.7, 125.3, 124.4, 121.8, 118.4, 115.6, 115.3, 112.0, 46.2, 46.2, 45.6, 42.4, 41.2. MS (ES+) m/z 527.2 (M+1).

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)C1 | C21H20F3N5O3
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID 4-FLUOROBENZYLAMIDE | 30% yield | FC1=CC=C(CNC(=O)C=2N=C3N(N=C(C=C3)N3CCN(CC3)C(C3=C(C=CC=C3)C(F)(F)F)=O)C2)C=C1 | C26H22F4N6O2
